Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor
 
Attending: ___
 
Chief Complaint:
Dizziness, fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with MI, HTN, CHF sent from ___ earlier today after being
found to be in atrial fibrillation in the setting of 2 weeks of
dizziness and fatigue. 

Patient states this started about 2 weeks ago she had episodes 
of
dizziness/pre-syncope that have occurred when she is walking
around. She denies any falls. She had not been evaluated until
she went to ___ earlier today to obtain a letter for housing
placement.

She was sent from ___ to ___ ED after her PCP found her to
be in new Afib. 

Patient denies current dizziness, but is feeling tired. She has
had increased bilateral ankle swelling over the past few days. 

Her Lasix dose was increased from 40 to 80 daily last week for
"worsening heart failure", but she has not taken it for 3 days
because of the dizziness she experienced. She denies any chest
pain or heart palpitations. She denies any cough or SOB. She did
have a UTI and viral infection a few weeks ago, for which she
took 7 days of antibiotics. 

She is not having urinary symptoms currently, but her daughter
states that she mentioned some dysuria a few days ago. 

She endorses some chills, dry skin, and constipation. She has
also had some mild abdominal pain starting in the past few days,
___ in severity and constant. She describes it as a dull ache,
not crampy.

In the ED, initial vitals:  
97.1, 96, 155/106, 18, 97% RA

- Exam notable for:  
2+ pitting edema b/l ___

- Labs notable for:  
proBNP 2.5k

- Imaging notable for:  
CXR:
Increased pleural based opacity at the right apex, could
represent pleural thickening/scarring, though not fully
characterized. Consider nonemergent CT of the chest to further
assess.

- Pt given:  
IV lasix 40mg

While in the ED patient spontaneously reverted to sinus rhythm.

Upon arrival to the floor, the patient reports slightly improved
lower extremity edema, although still present. Is not currently
lightheaded or dizzy. She denies any chest pain or heart
palpitations. She denies any cough or SOB. Denies orthopnea.
Denies dysuria. 

PAST MEDICAL HISTORY:  
 CHF
 HTN
 MI x2 (___)
 gout

SOCIAL HISTORY: ___
FAMILY HISTORY: father had cardiac complications, sister has
breast cancer 

MEDICATIONS: Lasix 80 daily, metoprolol 25mg daily, allopurinol
___ daily, Potassium chloride 10mEq PO BID
 
ALLERGIES/ADVERSE DRUG REACTIONS: Lipitor
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. ? CAD, pt reports having had ___ MIs in the past. First one 
here at ___ in ___ where she was ruled out and had a normal 
stress test. Second was at ___ in ___ where she had another 
stress test with unknown result. She never had cardiac cath.  
2. Hyperlipidemia.  
3. HTN  
4. Noncompliance with medications complaining of intolerance  
.  
PAST SURGICAL HISTORY: Surgical repair left ankle fracture  

 
Social History:
___
Family History:
Father with CAD and fam hx of DMII.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:  24 HR Data (last updated ___ @ 1633)
    Temp: 98.5 (Tm 98.5), BP: 142/82, HR: 62, RR: 18, O2 sat:
95%, O2 delivery: RA  

GEN: well-appearing, NAD, ordering dinner
HEENT: anicteric sclera, no cervical lymphadenopathy, no
thyromegaly
Cardiac: RRR, audible S1 S2, no m/r/g
Pulm: CTAB, no increased work of breathing
Abd: Normoactive bowel sounds, nontender, nondistended, no
organomegaly
Ext: 2+ bilateral lower extremity edema
Neuro: A&Ox3, no gross deficits
  

DISCHARGE PHYSICAL EXAM:
========================
VITALS:  24 HR Data (last updated ___ @ 1516)
    Temp: 98.4 (Tm 98.9), BP: 135/81 (123-135/76-82), HR: 73
(64-73), RR: 18 (___), O2 sat: 93% (92-96), O2 delivery: RA  
GEN: well-appearing, NAD, appears her stated age
HEENT: anicteric sclera, MMM
Neck: No JVP
Cardiac: RRR, audible S1 S2, no m/r/g
Pulm: CTAB, no increased work of breathing
Abd: Normoactive bowel sounds, nontender, nondistended, no HSM
Ext: 1+ edema to the mid-calf bilaterally
Neuro: A&Ox3, no gross deficits
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:15PM   PLT COUNT-293
___ 06:15PM   NEUTS-60.0 ___ MONOS-8.9 EOS-2.8 
BASOS-0.5 IM ___ AbsNeut-6.95* AbsLymp-3.16 AbsMono-1.03* 
AbsEos-0.33 AbsBaso-0.06
___ 06:15PM   WBC-11.6* RBC-3.87* HGB-11.8 HCT-37.3 MCV-96 
MCH-30.5 MCHC-31.6* RDW-16.0* RDWSD-55.7*
___ 06:15PM   TSH-1.2
___ 06:15PM   CALCIUM-9.6 PHOSPHATE-4.6* MAGNESIUM-2.0
___ 06:15PM   cTropnT-<0.01 proBNP-2525*
___ 06:15PM   estGFR-Using this
___ 06:15PM   GLUCOSE-101* UREA N-14 CREAT-0.9 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-107 TOTAL CO2-26 ANION GAP-9*
___ 10:52PM URINE  MUCOUS-RARE*
___ 10:52PM URINE  RBC-4* WBC-8* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 10:52PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 10:52PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:52PM URINE  HOURS-RANDOM
___ 10:52PM URINE  UHOLD-HOLD
___ 07:00PM   CALCIUM-9.1 PHOSPHATE-4.6* MAGNESIUM-1.9
___ 07:00PM   GLUCOSE-115* UREA N-15 CREAT-0.9 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-28 ANION GAP-13
========================
PERTINENT INTERVAL LABS:
========================
___ 06:15PM BLOOD cTropnT-<0.01 proBNP-2525*
___ 06:15PM BLOOD TSH-1.2

===============
DISCHARGE LABS:
===============
___ 07:09AM BLOOD WBC-10.0 RBC-4.19 Hgb-12.7 Hct-38.9 
MCV-93 MCH-30.3 MCHC-32.6 RDW-15.8* RDWSD-53.4* Plt ___
___ 07:09AM BLOOD Plt ___
___ 07:09AM BLOOD Glucose-90 UreaN-21* Creat-0.9 Na-144 
K-4.1 Cl-104 HCO3-25 AnGap-15
___ 07:09AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.1

========
IMAGING:
========

___ TTE

 Quantitative biplane left
ventricular ejection fraction is 69 % (normal 54-73%).

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal
cavity size and regional/global biventricular systolic function. 
High normal estimated pulmonary
systolic pressure.
Compared with the prior TTE (images reviewed) of ___ , 
the findings are similar(trace aortic
regurgitation now present).

CXR ___

IMPRESSION:  
  
Increased pleural based opacity at the right apex, could 
represent pleural 
thickening/scarring, though not fully characterized.  Consider 
nonemergent CT of the chest to further assess. 

MICROBIOLOGY:
=============

None

 
Brief Hospital Course:
SUMMARY:
=====================
___ with MI, HTN, CHF sent from ___ after being found to be 
in
atrial fibrillation after not taking her Lasix for two weeks 
with
symptoms of 2 weeks of dizziness and fatigue

TRANSITIONAL ISSUES:
====================
[ ] CXR with increased pleural based opacity at the right apex,
could represent pleural thickening/scarring, though not fully
characterized. Consider nonemergent CT of the chest to further
assess; unfortunately patient has been to many different 
providers in the area so reviewing records is difficult
[ ] Consider spironolactone for long-term management of ___ to 
reduce hospitalizations
[ ] Social issues
Patient has housing approved as of ___ and has many 
questions
about this. However, it is only a 1 bedroom so her daughter may
not be able to stay. Apparently was going to ___ to get
housing approval but was found to be dizzy in ___ which 
prompted
hospitalization. Her 1 bedroom house is in ___. She will 
be returning to a shelter with her daughter in the meantime; 
they attest that they have consistent room and board there.

ACTIVE ISSUES:
==============

# Paroxysmal Atrial Fibrillation
CHADS2VASC = 5. Unknown duration, likely at least a few weeks.
Afib may have been caused by increased atrial stretch from
worsening CHF. Improved with diuresis. Patient with persistent
bradycardia to 50's with several dips to low 40's/high 30's on
Metoprolol. Patient asymptomatic and no evidence of poor
perfusion. Metoprolol succinate was decreased from 25 mg to 12.5 
mg with patient maintaining HR in the ___ afterwards without 
further drops. She had no more evidence of atrial fibrillation 
during her hospitalization.
A TTE revealed:

Rate control: Metoprolol XL 12.5 mg daily
Anticoag: Rivaroxaban 20 mg daily with a large meal

# CHF exacerbation, likely non-ischemic HFpEF
# CAD
___ have been triggered by her UTI or viral URI within the last
month. BNP was 2525 on admission. Received 40 mg IV Lasix x2 
days and then transitioned to 80 mg PO furosemide. A TTE on 
___ showed:

# Dizziness
Generally happens when she is walking around; no chest pain,
nausea, or dyspnea associated. Likely caused by her Afib. EKG 
and troponin in the ED were normal. Other
possibilities include cardiac ischemia or orthostatic 
hypotension, though no
orthostasis on admission or on the first two days of 
hospitalization. She had no further episodes of exertional 
symptoms, so an inpatient ischemic work-up was deferred. No 
further episodes of dizziness during her hospital stay.

CHRONIC ISSUES:

#Code status
Discussed code status with patient and daughter. ___ 
completed.
Patient is full-code. HCP form completed; see chart for full
details. Daughter is HCP.

#Gout
Continue allopurinol
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 80 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Albuterol Inhaler 1 PUFF IH Q4H:PRN wheeze 
5. Potassium Chloride 10 mEq PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Rivaroxaban 20 mg PO DINNER  
2.  Metoprolol Succinate XL 12.5 mg PO DAILY  
3.  Albuterol Inhaler 1 PUFF IH Q4H:PRN wheeze  
4.  Allopurinol ___ mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Furosemide 80 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Potassium Chloride 10 mEq PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Paroxysmal atrial fibrillation
Heart failure with preserved ejection fraction, decompensation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
___ was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted of dizziness and fatigue related to your 
heart rate was going too fast and extra fluid in your legs

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You received IV medicine to help remove extra fluid
- Your heart returned back to its regular rhythm after extra 
fluid was removed
- You had a scan of your heart that showed a normal functioning 
heart.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- Monitor your weight daily. If you notice >3 lb weight gain, 
please call your doctor or go to the Emergency Department
- If you notice further dizziness, weakness, numbness, 
difficulty speaking, chest/jaw/arm pain, shortness of breath, or 
increased swelling please call your doctor or go to the 
Emergency Department.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___